US09169270B2
Synthesis of (±)-4-(5-Cyano-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester (C22H25N3O5S, MW=443.15)
To a solution of (±)-4-(5-bromo-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester (375 mg, 0.75 mmol, 1.00 eq.) in N,N-dimethylacetamide (1.5 mL), zinc cyanide (44 mg, 0.37 mmol, 0.50 eq.), tris(dibenzylideneacetone)dipalladium(0) (15 mg, 16 μmol, 0.02 eq.), 1,1′-bis-(diphenylphosphino)-ferrocene (11 mg, 20 μmol, 0.03 eq.) and poly(methylhydrosiloxane) (15 μL) were added in sequence. The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. To the previous mixture, zinc cyanide (44 mg, 0.37 mmol, 0.50 eq.), tris(dibenzylideneacetone)dipalladium(0) (15 mg, 16 μmol, 0.02 eq.), 1,1′-bis-(diphenylphosphino)-ferrocene (11 mg, 20 μmol, 0.03 eq.) and poly(methylhydrosiloxane) (15 μL) were added. The resulting mixture was stirred at 150° C. under microwave irradiation for 30 min. The reaction mixture was diluted with AcOEt and water was added. The layers were separated and the org. layer was dried over MgSO4, filtered over celite, and concentrated in vacuo. The residue, redissolved in DMF (4 mL) and formic acid (0.2 mL), was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give the title compound as a brown oil.

reactant | (±)-4-(5-bromo-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 0.75 mmol, 375 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N=CS2)C2=C(C=CC(=C2)Br)OCC(=O)OCC | C21H25BrN2O5S
reactant | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | zinc cyanide | 0.37 mmol, 44 mg, 0.50 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 16 μmol, 15 mg, 0.02 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)-ferrocene | 20 μmol, 11 mg, 0.03 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.37 mmol, 44 mg, 0.50 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 16 μmol, 15 mg, 0.02 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)-ferrocene | 20 μmol, 11 mg, 0.03 eq. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (±)-4-(5-Cyano-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N=CS2)C2=C(C=CC(=C2)C#N)OCC(=O)OCC | C22H25N3O5S
